US04409220
2-Amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
This compound was prepared analogous to Example 31 by alkylation of 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrobromide with ethyl bromide.

reactant | 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrobromide | Br.Br.NC=1C=NC2=C(CCNCC2)N1
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 2-Amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)CC)N1 | C10H16N4
